US05811439
The same procedures used in Example 1 were repeated except for using 870 mg of indole-3-carbaldehyde and 3,4-difluorobenzyl bromide in place of the benzyl bromide used in Example 1 to give 1.59 g of 1-(3,4-difluorobenzyl)indole-3-carbaldehyde as pale brown crystals. The yield thereof was found to be 98%.

reactant | indole-3-carbaldehyde | 870 mg | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | 3,4-difluorobenzyl bromide | FC=1C=C(CBr)C=CC1F | C7H5BrF2
product | 1-(3,4-difluorobenzyl)indole-3-carbaldehyde | 1.59 g | FC=1C=C(CN2C=C(C3=CC=CC=C23)C=O)C=CC1F | C16H11F2NO
